US03957666
Preparation of 3-(m-phenoxyphenoxy)-3'-(p-phenoxyphenoxy)biphenyl
A 250 ml. reaction flask equipped with stirrer, dropping funnel, thermometer, and Dean-Stark trap surmounted by a Friedrichs condenser, was charged with 200 g. (1.07 moles) of p-phenoxyphenol, and 34.9 g. (0.567 mole) of potassium hydroxide was added in increments at 90°C. To the resulting melt was added 50 ml. of toluene and the theoretical amount of water azeotroped from the reaction mixture followed by removal of toluene up to 230°C. On cooling to 150°C., the reaction mixture was diluted with 150 ml. of diglyme and 5.0 g. of cuprous chloride and 1.0 g. of copper powder was added. Over a 45 min. period, 20 g. (0.054 mole) of 3-chloro-3'-(m-phenoxyphenoxy)-biphenyl in diglyme was added, and the diglyme was removed by distillation. The stirred reaction mixture was heated at 235°C. for 19 hours. On cooling, an equal volume of ether was added and this mixture centrifuged to remove salts. The ethereal solution was washed with 25 % potassium hydroxide solution to remove excess phenol, water until neutral, and then dried over anhydrous magnesium sulfate. After filtration and concentration to remove ether, the oil obtained was distilled to obtain 17.5 g. of the desired product, bp 297°-302° C./0.05 mm.; nD25 1.6500.

reactant | p-phenoxyphenol | 1.07 moles | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium hydroxide | 0.567 mole | [OH-].[K+]
reactant | 3-chloro-3'-(m-phenoxyphenoxy)-biphenyl | 0.054 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H17ClO2
reactant | ether | CCOCC | C4H10O
solvent | diglyme | COCCOCCOC | C6H14O3
product | 3-(m-phenoxyphenoxy)-3'-(p-phenoxyphenoxy)biphenyl | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)C2=CC(=CC=C2)OC2=CC=C(C=C2)OC2=CC=CC=C2)C=CC1 | C36H26O4
